US07132539B2
Preparation of 2-(3-ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester (34):
To a solution of 2-[3-ethyl-4-(2-nitro-benzenesulfonyl)-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester, 33, (4.1 g, 8.0 mmol) in anhydrous DMF (40 mL) is added potassium carbonate (6.7 g, 48.2 mmol) and 4-mercaptophenol (3.0 g, 24.1 mmol). The reaction mixture is stirred for six hours at room temperature, cooled in a ice bath and the pH adjusted to ˜3 with 1M HCl. The reaction mixture is extracted with Et2O (4×100 mL), the organic layers combined and extracted with 1M HCl (100 mL). The organic layers are then discarded. The aqueous layers were combined and cooled in ice bath and pH was adjusted to ˜10 with K2CO3. The aqueous layer is extracted with EtOAc (4×125 mL) and dried over Na2SO4. The combined organic layers are concentrated in vacuo to afford 2.1 g (80% yield) of the desired product. 1H NMR (CDCl3, δ): 7.84–7.75 (m, 3H), 7.70 (s, 1H), 7.50–7.38 (m, 2H), 7.35 (dd, J=8.3, 1.7 Hz, 1H), 3.60(s, 3H), 3.55–3.50 (m, 1H), 3.30–3.24 (m, 1H), 3.18–3.08 (m, 1H), 3.05–2.75 (m, 5H), 2.70–2.55 (m, 1H), 2.50 (dd, J=10.4, 4.1 Hz, 1H), 2.04 (t, J=10.4 Hz, 1H), 1.52–1.32 (M, 2H), 1.00 (t, J=8.3 Hz, 3H); 13C NMR, δ 171.8, 135.9, 133.7, 132.4, 128.1, 128.0, 127.9, 127.8, 126.1, 125.6, 120.8, 70.0, 57.3, 54.3, 52.9, 51.3, 46.4, 35.7, 27.5, 10.6.

reactant | 2-[3-ethyl-4-(2-nitro-benzenesulfonyl)-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC)=O | C26H29N3O6S
reactant | potassium carbonate | 48.2 mmol, 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-mercaptophenol | 24.1 mmol, 3.0 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(3-ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester | 2.1 g, 80% yield | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(NCC1)CC)=O | C20H26N2O2
